US06306860B1
2-[1-[3-(ethylamino)-2-pyridyl]piperazin-4-yl-carbonyl]-5-(N-isopropylcarbamoyl)pyridine
6-[1-[3-(ethylamino)-2-pyridyl]piperazin-4-yl-carbonyl]nicotinic acid methyl ester (2 g) was dissolved in methanol (25 ml) and with the addition of isopropylamine (5 ml), the mixture was heated to reflux for 12 hours. The mixture was concentrated under reduced pressure to remove the solvent. The residue was treated with ether for crystallization, and the solid was recrystallized with chloroform and hexane to give a desired compound of 1.59 g (yield: 74%).

reactant | 6-[1-[3-(ethylamino)-2-pyridyl]piperazin-4-yl-carbonyl]nicotinic acid methyl ester | 2 g | COC(C1=CN=C(C=C1)C(=O)N1CCN(CC1)C1=NC=CC=C1NCC)=O | C19H23N5O3
solvent | methanol | 25 ml | CO | CH4O
solvent | isopropylamine | 5 ml | C(C)(C)N | C3H9N
product | 2-[1-[3-(ethylamino)-2-pyridyl]piperazin-4-yl-carbonyl]-5-(N-isopropylcarbamoyl)pyridine | yield: 74% | C(C)NC=1C(=NC=CC1)N1CCN(CC1)C(=O)C1=NC=C(C=C1)C(NC(C)C)=O | C21H28N6O2
